US09382197B2
methyl 4-(1-(hydroxyimino)ethyl)-3-methylbenzoate
Methyl 4-acetyl-3-methylbenzoate (1.49 g, 7.76 mmol), hydroxylamine hydrochloride (4.18 g, 60.1 mmol), and sodium acetate (4.93 g, 60.1 mmol) were suspended in methanol (40 mL) and the reaction mixture heated at 40° C. for 2 h. Upon cooling to room temperature the solvent was removed under reduced pressure. The residue obtained was partitioned between ethyl acetate (75 mL) and water (30 mL). The organic extract was washed with water (20 mL) and brine. The washed extract was dried over sodium sulfate, filtered and concentrated under reduced pressure to afford the title compound as a solid (1.61 g, 100%). LC-MS: (FA) ES+ 208; 1H NMR (300 MHz, MeO D) δ 7.91-7.77 (m, 2H), 7.31 (d, J=8.0 Hz, 0.7H), 7.16 (d, J=7.9 Hz, 0.3H), 3.89 (s, 3H), 2.37 (s, 2H), 2.28 (s, 1H), 2.17 (s, 2H), 2.10 (s, 1H).

reactant | Methyl 4-acetyl-3-methylbenzoate | 7.76 mmol, 1.49 g | C(C)(=O)C1=C(C=C(C(=O)OC)C=C1)C | C11H12O3
reactant | hydroxylamine hydrochloride | 60.1 mmol, 4.18 g | Cl.NO
reactant | sodium acetate | 60.1 mmol, 4.93 g | C(C)(=O)[O-].[Na+]
solvent | methanol | 40 mL | CO | CH4O
product | methyl 4-(1-(hydroxyimino)ethyl)-3-methylbenzoate | 1.61 g, 100% | ON=C(C)C1=C(C=C(C(=O)OC)C=C1)C | C11H13NO3
